US07479488B2
31c 3-(4-chloro-3,5-dimethyl-phenyl)-2-oxo-propionic acid
29.4 g (105 mmol) methyl 2-acetylamino-3-(4-chloro-3,5-dimethylphenyl)-acrylate in 330 mL N-methyl-2-pyrrolidinone were combined with 500 mL cooled 4 M HCl, stirred for 6 h at reflux temperature and for 16 h at RT. After the reaction had ended the reaction mixture was poured onto 1650 mL water, stirred for 1 h, suction filtered and the crystals were dried at 50° C. in the vacuum drying cupboard. The product was recrystallised from toluene.

reactant | methyl 2-acetylamino-3-(4-chloro-3,5-dimethylphenyl)-acrylate | 105 mmol, 29.4 g | C(C)(=O)NC(C(=O)OC)=CC1=CC(=C(C(=C1)C)Cl)C | C14H16ClNO3
reactant | HCl | 4 M | Cl | ClH
reactant | water | 1650 mL | O | H2O
solvent | N-methyl-2-pyrrolidinone | 330 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(4-chloro-3,5-dimethyl-phenyl)-2-oxo-propionic acid | ClC1=C(C=C(C=C1C)CC(C(=O)O)=O)C | C11H11ClO3
